US07132425B2
A mixture of N-(5-bromo-pyrazin-2-yl)-2,2-dimethyl-propionamide (29.67 g, 114.9421 mmol), dichloro[1,1′-bis(diphenylphosphino)ferro-cene]palladium(II) dichloromethane adduct (0.95 g, 1.1633 mmol), triethylamine (17.6 mL, 126.2733 mmol), and potassium vinyltrifluoroborate (19.25 g, 143.7103 mmol) in ethanol (245 mL) was heated at 100° C. for 90 min. At this time, the reaction mixture was allowed to cool to 25° C. and then was concentrated in vacuo. The resulting orange slurry was diluted with methylene chloride (200 mL). The organic layer was washed with a 1N aqueous hydrochloric acid solution (2×200 mL), a saturated aqueous sodium bicarbonate solution (1×200 mL), and a saturated aqueous sodium chloride solution (1×200 mL). The combined aqueous layers were back-extrated with methylene chloride (1×200 mL). The combined organic layers were dried over magnesium chloride and decolorizing carbon, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 75S, Silica, 100% hexanes to 10% ethyl acetate/hexanes) afforded 2,2-dimethyl-N-(5-vinyl-pyrazin-2-yl)-propionamide (21.64 g, 92%) as an off-white solid: mp 80.4–81.8° C.; EI-HRMS m/e calcd for C11H15N3O (M+) 205.1215, found 205.1214.

reactant | N-(5-bromo-pyrazin-2-yl)-2,2-dimethyl-propionamide | 114.9421 mmol, 29.67 g | BrC=1N=CC(=NC1)NC(C(C)(C)C)=O | C9H12BrN3O
reactant | triethylamine | 126.2733 mmol, 17.6 mL | C(C)N(CC)CC | C6H15N
reactant | potassium vinyltrifluoroborate | 143.7103 mmol, 19.25 g | C(=C)[B-](F)(F)F.[K+]
solvent | ethanol | 245 mL | C(C)O | C2H6O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferro-cene]palladium(II) dichloromethane adduct | 1.1633 mmol, 0.95 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2,2-dimethyl-N-(5-vinyl-pyrazin-2-yl)-propionamide | 21.64 g, 92% | CC(C(=O)NC1=NC=C(N=C1)C=C)(C)C | C11H15N3O
